US04223136
To a solution of 20 parts of 2,3-dihydro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile in 1575 parts of glacial acetic acid is added a solution of 34 parts of bromine in 320 parts of carbon tetrachloride. The resultant mixture is heated at the boiling point under reflux for 23/4 hours, then chilled. The precipitate which forms is filtered off and recrystallized from N,N-dimethylformamide to give 8-bromo-2,3-dihydro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile melting above 305°.

reactant | 2,3-dihydro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile | O=C1C(=C2C(SC3=C(N2)C=CC=C3)=CN1)C#N | C12H7N3OS
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | bromine | BrBr | Br2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 8-bromo-2,3-dihydro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile | BrC1=CC2=C(NC=3C(S2)=CNC(C3C#N)=O)C=C1 | C12H6BrN3OS
